US04665210
A reaction mixture comprising 49.2 g of triethyl 1,1,2-ethanetricarboxylate, 135 ml of 5N sodium hydroxide and 65 ml of water was stirred at 100° C. for 3 hours, then cooled and concentrated to about 150 ml. A 50 ml portion of cold concentrated hydrochloric acid was added and the mixture was extracted three times with ether. The ether extracts were combined, dried and evaporated, giving 12.5 g of 1,1,2-ethanetricarboxylic acid, mp 169°-170° C.

reactant | triethyl 1,1,2-ethanetricarboxylate | 49.2 g | C(CC(=O)OCC)(C(=O)OCC)C(=O)OCC | C11H18O6
reactant | sodium hydroxide | 5N, 135 ml | [OH-].[Na+]
solvent | water | 65 ml | O | H2O
product | 1,1,2-ethanetricarboxylic acid | 12.5 g | C(CC(=O)O)(C(=O)O)C(=O)O | C5H6O6
